* source O.C.4
C_C4         0 N01339  100uF  
J_J1         N03204 N00947 N00588 J2N4860 
C_C5         N01274 N01399  10uF  
R_Rd         N03204 N01068  1k  
R_R1         N01131 N01068  30k  
R_Rc         N01274 N01068  1k  
R_RL         0 N01399  100k  
Q_Q1         N01274 N01131 N01339 Q2N3904
R_R2         0 N01131  47k  
R_Rs         0 N00588  330  
V_V2         N00909 0  
+SIN 0 0.1mV 1kHz 0 0 0
V_V1         N01068 0 12Vdc
R_Rg         0 N00947  1M  
C_C1         N00909 N00947  10uF  
R_Re         0 N01339  2.2k  
C_C3         N03204 N01131  100uF  
C_C2         0 N00588  22uF  
